US08754054B2
To a solution of (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (100 mg, 0.143 mmol) in methanol (2 mL) was added methylamine (40% in water, 0.1 mL) at room temperature, and the mixture was stirred under nitrogen for 1 h. The reaction mixture was quenched with a saturated solution of ammonium chloride and extracted with chloroform. The combined extracts were washed with brine, dried (Na2SO4), filtered and concentrated. The residue was purified by preparative TLC (silica gel, 90:10 chloroform/methanol) to afford (6R,6aS,14aR,E)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-9-(methylimino)-7,12,14-trioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (30 mg, 29%) as a blue solid: 1H NMR (500 MHz, CDCl3) δ 11.94 (s, 1H), 7.88 (s, 1H), 7.01 (d, J=9.0 Hz, 1H), 6.49 (s, 1H), 5.91 (s, 1H), 5.26 (s, 1H), 5.00 (dd, J=10.0, 6.0 Hz, 1H), 4.75-4.72 (m, 2H), 3.82 (s, 3H), 3.79 (s, 3H), 3.75-3.68 (m, 2H), 3.61 (s, 3H), 3.57 (dd, J=19.5, 6.5 Hz, 1H), 3.40 (s, 3H), 3.39-3.36 (m, 1H), 3.34 (d, J=4.5 Hz, 3H), 3.29 (d, J=19.5 Hz, 1H), 3.15 (t, J=9.5 Hz, 1H), 2.52 (d, J=4.5 Hz, 1H), 2.36 (s, 3H), 1.38 (d, J=6.0 Hz, 3H); MS (ESI+) m/z 711 (M+H); HPLC 93.4% (AUC), tR 10.83 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.143 mmol, 100 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | methylamine | 0.1 mL | CN | CH5N
solvent | methanol | 2 mL | CO | CH4O
product | (6R,6aS,14aR,E)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-9-(methylimino)-7,12,14-trioxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 30 mg, 29% | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=C\C(\C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=N/C)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C35H38N2O14
